US05399712
A solution of 222 mg (1 mmol) of 1-methylindole-3-glyoxylyl chloride in 25 ml of dichloromethane was added dropwise to a stirred solution of 138 mg (1 mmol) of isopropyl ethanimidate hydrochloride and 404 mg (4 mmol) of triethylamine in 25 ml of dry dichloromethane under a nitrogen atmosphere. After 18 hours, the mixture was washed twice with water, dried over sodium sulfate and evaporated under reduced pressure. The residue was dissolved in 25 ml of dry toluene under a nitrogen atmosphere and the solution obtained was treated with 112 mg (1 mmol) of potassium tert.butoxide. After stirring for 1 hour at room temperature, 380 mg (2 mmol) of p-toluenesulfonic acid were added and stirring was continued for an additional hour. The mixture was then poured into water and extracted three times with dichloromethane. The combined organic extracts were dried over sodium sulfate and evaporated to dryness. The residue was purified by flashy:chromatography on silica gel using dichloromethane/ethyl acetate (9:1) for the elution to give 102mg (45%) of 3-(1-methyl-3-indolyl)-1H-pyrrole-2,5dione in the form of a yellow solid of melting point 229°-231° C.

reactant | isopropyl ethanimidate hydrochloride | 1 mmol, 138 mg | Cl.C(C)(OC(C)C)=N
reactant | triethylamine | 4 mmol, 404 mg | C(C)N(CC)CC | C6H15N
reactant | potassium tert.butoxide | 1 mmol, 112 mg | CC(C)([O-])C.[K+]
reactant | p-toluenesulfonic acid | 2 mmol, 380 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-(1-methyl-3-indolyl)-1H-pyrrole-2,5dione | 102mg, 45% | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1)=O)=O | C13H10N2O2
